US04734429
Hydrazine (1.00 ml) was added dropwise to a solution of 4.1 g of 4-[(dimethylamino)methylene]-1,4,6,7-tetrahydro-1-methyl-5H-indazol-5-one in 100 ml of methanol. The solution was heated at reflux for 30 minutes and treated with a small amount of activated charcoal. The mixture was gravity-filtered and the filtrate was concentrated in vacuo. The residue was flash chromatograhed (10% methanol in dichloromethane) on silica gel to provide an amber syrup. The syrup was triturated with ether to afford 3,4,5,6-tetrahydro-3-methylbenzo[1,2-c:4,3-c']dipyrazole as tan crystals (74% yield). Recrystallization from toluene gave a solid melting at about 150°-156° C.

reactant | Hydrazine | 1.00 ml | NN | H4N2
reactant | 4-[(dimethylamino)methylene]-1,4,6,7-tetrahydro-1-methyl-5H-indazol-5-one | 4.1 g | CN(C)C=C1C=2C=NN(C2CCC1=O)C | C11H15N3O
reactant | charcoal | C | CH4
solvent | methanol | 100 ml | CO | CH4O
product | 3,4,5,6-tetrahydro-3-methylbenzo[1,2-c:4,3-c']dipyrazole | 74% yield | CN1N=CC2=C1CCC=1NN=CC12 | C9H10N4
